US06284915B1
A solution (18.8 ml) of 28% sodium methylate in methanol was added to a solution of the material (280 g) which contains 2-(4-octanoyl phenyl)ethyl acetate obtained in the step A as a major component in methanol (200 ml), and the solution was stirred at room temperature for 1 hour. Suspension of Amberlite IR-120B in methanol (98 ml) was added to the solution, and the mixture was filtered. The filtrate was concentrated, and the residue was recrystallized from hexane-ethyl acetate (10:1) to obtain 4′-(2-hydroxy ethyl)octanophenone (138 g) in the form of colorless crystal.

reactant | sodium methylate | 18.8 ml | C[O-].[Na+]
reactant | 2-(4-octanoyl phenyl)ethyl acetate | C(C)(=O)OCCC1=CC=C(C=C1)C(CCCCCCC)=O | C18H26O3
solvent | methanol | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 98 ml | CO | CH4O
product | 4′-(2-hydroxy ethyl)octanophenone | 138 g | OCCC1=CC=C(C=C1)C(CCCCCCC)=O | C16H24O2
